US08580794B2
3-cyano-4-fluorobenzene sulfonamide
3-Cyano-4-fluorobenzene-1-sulfonyl chloride (1.1 g) in 1,4-dioxane (10 mL) at 0° C. was treated dropwise with a 7 M ammonia solution in methanol (3.57 mL) and stirred for 30 minutes. A small amount of solid was removed by filtration and discarded. The filtrate was concentrated, diluted with ethyl acetate, washed with water and brine, dried (MgSO4), filtered, concentrated and triturated with diethyl ether to give the product.

reactant | 3-Cyano-4-fluorobenzene-1-sulfonyl chloride | 1.1 g | C(#N)C=1C=C(C=CC1F)S(=O)(=O)Cl | C7H3ClFNO2S
reactant | ammonia | 7 M | N | H3N
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | methanol | 3.57 mL | CO | CH4O
product | 3-cyano-4-fluorobenzene sulfonamide | C(#N)C=1C=C(C=CC1F)S(=O)(=O)N | C7H5FN2O2S
